US05359076
Ethyl p-aminophenylacetate (8 g), ethyl 2-fluorobenzoylacetate (10 g) and p-toluenesulfonic acid (1 g) were dissolved into benzene (150 ml) and, providing Dean Stalk dehydrating apparatus placed molecular sieve (MS 4 angstroms) therein, the solution was refluxed for 4.5 hours under heat. Solvent was distilled off under reduced pressure and water was added to the residue, which was extracted with methylene chloride. The organic layer was washed with water, dried over anhydrous sodium sulfate, and then concentrated. After diphenyl ether (60 ml) was added to the residue, the mixture was stirred at 240° to 250° C. for 30 minutes under heat. After cooling, ether was added and the crystals deposited were collected by filtration to obtain crude ethyl 2-(2-fluorophenyl)-4-hydroxyquinoline-6-acetate (9.5 g). After phosphorus oxychloride (40 ml) was added thereto, the mixture was refluxed for 2 hours under heat. After cooling, this was thrown into ice and extracted with methylene chloride. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated to obtain ethyl 4-chloro-2-(2-fluorophenyl)quinoline-6-acetate (9.2 g). This was dissolved into ethanol (200 ml) and, after 10% palladium carbon (1 g) was added, hydrogenation was conducted at a hydrogen pressure of 40 kg/cm2 and at 80° C. Catalyst was filtered off, the filtrate was concentrated under reduced pressure, and the residue was purified by means of silica gel column chromatography (development solvent: methylene chloride) to obtain aimed product (3.7 g) as a pale yellow oily substance.

reactant | Ethyl p-aminophenylacetate | 8 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | ethyl 2-fluorobenzoylacetate | 10 g | FC1=C(C(=O)CC(=O)OCC)C=CC=C1 | C11H11FO3
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-(2-fluorophenyl)-4-hydroxyquinoline-6-acetate | 9.5 g | FC1=C(C=CC=C1)C1=NC2=CC=C(C=C2C(=C1)O)CC(=O)OCC | C19H16FNO3
